US04132726
By operating as in Example 25, 140 milligrams (0.44 mmol) of 3-benzoyloxy-5-t-butyldimethylsiloxycyclopent-1-ene was held in anhydrous ether with 30 milligrams (0.79 mmol) of lithium aluminum hydride for one hour at room temperature under a nitrogen atmosphere, following which the mixture was heated under reflux for 30 minutes. Thereafter the aftertreatment was carried out as in Example 25, and the resulting crude product was separated by preparative thin-layer chromatograph (silica gel 2mm, hexane:ethyl acetate = 4:1) to obtain 85 milligrams (0.04 mmol, 91%) of 3-t-butyldimethylsiloxy-5-hydroxycyclopent-1-ene.

reactant | 3-benzoyloxy-5-t-butyldimethylsiloxycyclopent-1-ene | 0.44 mmol, 140 milligrams | C(C1=CC=CC=C1)(=O)OC1C=CC(C1)O[Si](C)(C)C(C)(C)C | C18H26O3Si
reactant | lithium aluminum hydride | 0.79 mmol, 30 milligrams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 3-t-butyldimethylsiloxy-5-hydroxycyclopent-1-ene | 0.04 mmol, 85 milligrams, 91% | O([Si](C)(C)C(C)(C)C)C1C=CC(C1)O | C11H22O2Si
